US07482341B2
N-(6-cyclopropylmethoxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.884 g) in ethanol (50 mL) was treated at RT with 3M aqueous NaOH (5.62 mL) and then heated at 100° C. for 20 h. The mixture was cooled to RT, partitioned between water and AcOEt. The layers were separated, the organic layer dried over magnesium sulphate, filtered and evaporated in vacuo to give 6-cyclopropylmethoxymethyl-pyridin-2-ylamine (0.566 g) as a light brown liquid. MS (ESI): 179.1 (MH+).

reactant | N-(6-cyclopropylmethoxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.884 g | C1(CC1)COCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C15H22N2O2
reactant | NaOH | 3M, 5.62 mL | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6-cyclopropylmethoxymethyl-pyridin-2-ylamine | 0.566 g | C1(CC1)COCC1=CC=CC(=N1)N | C10H14N2O
